US07572795B2
4. (Bis(benzyloxy)phosphoryloxy)methyl-3-amino-4-methylbenzoyl(cyclopropyl)-carbamate
To a solution of (bis(benzyloxy)phosphoryloxy)methyl-cyclopropyl(4-methyl-3-nitrobenzoyl)carbamate (0.53 g, 1.0 mmol) in MeOH/THF (1:1, 50 mL) under nitrogen were added ammonium chloride (0.79 g, 14.8 mmol) and zinc (0.75 g, 11.5 mmol). After 3 h, the precipitate was filtered, and the filtrate was concentrated in vacuo, diluted with EtOAc and washed with water (2×), brine successively, dried over Na2SO4, filtered, and concentrated in vacuo to give the title compound as a colorless oil (0.51 g, 100% yield). (M+H)+=525.19.

reactant | (bis(benzyloxy)phosphoryloxy)methyl-cyclopropyl(4-methyl-3-nitrobenzoyl)carbamate | 1.0 mmol, 0.53 g | C(C1=CC=CC=C1)OP(=O)(OCC1=CC=CC=C1)OCOC(N(C(C1=CC(=C(C=C1)C)[N+](=O)[O-])=O)C1CC1)=O | C27H27N2O9P
reactant | ammonium chloride | 14.8 mmol, 0.79 g | [Cl-].[NH4+]
solvent | MeOH THF | 50 mL | CO.C1CCOC1
catalyst | zinc | 11.5 mmol, 0.75 g | [Zn] | Zn
product | (Bis(benzyloxy)phosphoryloxy)methyl-3-amino-4-methylbenzoyl(cyclopropyl)-carbamate | 0.51 g, 100% yield | C(C1=CC=CC=C1)OP(=O)(OCC1=CC=CC=C1)OCOC(N(C1CC1)C(C1=CC(=C(C=C1)C)N)=O)=O | C27H29N2O7P
